US06458814B1
c) 2-[(2-Amino-1-ethyl)amino]pyridine dihydrochloride
4 N HCl/dioxane (54 mL) was added in a stream to a solution of 2-[[2-(tert-butoxycarbonyl)amino-1-ethyl]amino]pyridine (5.09 g, 21.45 mmole) in anhydrous CH2Cl2 (54 mL) at 0° C. under argon, then the mixture was warmed to RT. After 2 hr, the mixture was cooled to 0° C. and suction filtered. The solid was washed extensively with anhydrous Et2O and dried in high vacuum at 40° C. to afford the title compound (4.27 g, 95%) as an off-white, somewhat hygroscopic solid: 1H NMR (400 MHz, CD3OD) δ7.99-8.07 (m, 1 H), 7.92-7.98 (m, 1 H), 7.19 (d, J=9.1 Hz, 1 H), 6.98-7.04 (m, 1 H), 3.76 (t,J=6.2 Hz, 2 H). 3.27 (t, J=6.2 Hz, 2 H, partially obscured by residual solvent signal); MS (ES) m/e 138 (M+H)+.

reactant | HCl dioxane | 4 N, 54 mL | Cl.O1CCOCC1
reactant | 2-[[2-(tert-butoxycarbonyl)amino-1-ethyl]amino]pyridine | 21.45 mmole, 5.09 g | C(C)(C)(C)OC(=O)NCCNC1=NC=CC=C1 | C12H19N3O2
solvent | CH2Cl2 | 54 mL | C(Cl)Cl | CH2Cl2
product | 2-[(2-Amino-1-ethyl)amino]pyridine dihydrochloride | 4.27 g, 95% | Cl.Cl.NCCNC1=NC=CC=C1 | InChI=1S/C7H11N3.2ClH/c8-4-6-10-7-3-1-2-5-9-7;;/h1-3,5H,4,6,8H2,(H,9,10);2*1H
